US07291642B2
1a) tert.-Butyl 3-[(2,3-dichlorobenzenesulphonyl)methylamino]propionate
A solution of 1.0 g (6.28 mmol) of tert.-butyl N-methyl-β-alaninate, 1.54 g (6.28 mmol) of 2,3-dichlorobenzenesulphonyl chloride and 0.70 g (6.92 mmol) of triethylamine in 30 ml of tetrahydrofuran was stirred at room temperature overnight and then evaporated to dryness. About 50 ml of water were added to the residue, and the mixture was extracted three times with in each case 20 ml of ethyl acetate. The organic extracts were washed with about 20 ml of saturated sodium chloride solution and then evaporated to dryness. The crude product obtained in this manner was purified by column chromatography on silica gel (mobile phase: dichloromethane).

reactant | tert.-butyl N-methyl-β-alaninate | 6.28 mmol, 1.0 g | CNCCC(=O)OC(C)(C)C | C8H17NO2
reactant | 2,3-dichlorobenzenesulphonyl chloride | 6.28 mmol, 1.54 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | triethylamine | 6.92 mmol, 0.70 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | tert.-Butyl 3-[(2,3-dichlorobenzenesulphonyl)methylamino]propionate | ClC1=C(C=CC=C1Cl)S(=O)(=O)CNCCC(=O)OC(C)(C)C | C14H19Cl2NO4S
